US08377949B2
To a mixture of (R)-cyclohexyl-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-acetic acid methyl ester (100 mg, 0.32 mmol) and (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethylammonium iodide (160 mg, 0.47 mmol) in DMF (2.5 mL) is added potassium carbonate (K2CO3) (100 mg, 0.72 mmol). The mixture is stirred at 60° C. for 4 hours. The reaction mixture is allowed to cool to room temperature, dilute with EtOAc (50 mL) and is washed with H2O (50 mL×3). The organic layer is dried over sodium sulfate and concentrated. The resulting residue is triturated with EtOAc and hexanes to afford (R)-cyclohexyl-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-acetic acid methyl ester (124 mg, 94%).

reactant | (R)-cyclohexyl-(2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl)-acetic acid methyl ester | 0.32 mmol, 100 mg | COC([C@H](N1C(NC2=CC=CC=C2C1=O)=O)C1CCCCC1)=O | C17H20N2O4
reactant | (1,4-dimethyl-1H-indol-3-ylmethyl)-trimethylammonium iodide | 0.47 mmol, 160 mg | [I-].CN1C=C(C2=C(C=CC=C12)C)C[N+](C)(C)C
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (R)-cyclohexyl-[1-(1,4-dimethyl-1H-indol-3-ylmethyl)-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl]-acetic acid methyl ester | 124 mg, 94% | COC([C@H](N1C(N(C2=CC=CC=C2C1=O)CC1=CN(C2=CC=CC(=C12)C)C)=O)C1CCCCC1)=O | C28H31N3O4
